US06211215B1
To a mixture of 2-(1-pyrrolyl)-4-thiazolylmethanol (0.45 g), triethylamine (0.42 ml) and ethyl acetate (20 ml) was added dripwise methanesulfonyl chloride (0.23 ml) at 0° C., and then stirred for one hour. To the reaction mixture was added water, and the ethyl acetate layer was separated, washed with water, dried (MgSO4), and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (5 ml), which was added to a solution prepared by adding sodium hydride (oily, 60%, 92 mg) to a solution of 1-[3-(4-hydroxyphenyl)propyl]imidazole (420 mg) in N,N-dimethylformamide (10 ml). After stirring for 2 hours, the reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with 2N-aqueous sodium hydroxide and then water, dried (MgSO4), and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-methanol (95:5, v/v), crystals were obtained. Recrystallization from ethyl acetate-hexane gave 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(1-pyrrolyl)thiazole (530 mg, 70%), colorless prisms, mp 93-94° C.

reactant | 2-(1-pyrrolyl)-4-thiazolylmethanol | 0.45 g | N1(C=CC=C1)C=1SC=C(N1)CO | C8H8N2OS
reactant | methanesulfonyl chloride | 0.23 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydride | 92 mg | [H-].[Na+]
reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | 420 mg | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(1-pyrrolyl)thiazole | 530 mg, 70% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(SC2)N2C=CC=C2)C=C1 | C20H20N4OS
